US08685977B2
3-chloro-4-(4-chloro-3-(trifluoromethyl)phenoxy)-2-fluorobenzoic acid
tert-Butyl 3-chloro-2,4-difluorobenzoate (Preparation 154, 0.249 g, 1.00 mmol), 4-chloro-3-(trifluoromethyl)phenol (0.196 g, 1.00 mmol) and potassium carbonate (210 mg, 1.5 mmol) were added to dimethyl sulfoxide (6 mL) and stirred at ambient temperature for 4 hours, then another 18 hours at 70° C. The reaction mixture was diluted with water and extracted three times with ethyl ether. The combined organic phase was dried over anhydrous magnesium sulfate and the solvent removed in vacuo to leave a residue. The residue was purified by silica gel column chromatography eluting with 0-10% ethyl acetate in hexanes. The desired fractions were combined and the solvent removed in vacuo. The residue was dissolved in trifluoroacetic acid (0.50 mL, 6.5 mmol) and stirred for 18 hours. The solvent was removed in vacuo and the residue triturated with dichloromethane. The resulting precipitate was collected by filtration and vacuum dried to afford the title compound as a white solid (140 mg).

reactant | tert-Butyl 3-chloro-2,4-difluorobenzoate | 1.00 mmol, 0.249 g | ClC=1C(=C(C(=O)OC(C)(C)C)C=CC1F)F | C11H11ClF2O2
reactant | 4-chloro-3-(trifluoromethyl)phenol | 1.00 mmol, 0.196 g | ClC1=C(C=C(C=C1)O)C(F)(F)F | C7H4ClF3O
reactant | potassium carbonate | 1.5 mmol, 210 mg | C([O-])([O-])=O.[K+].[K+]
reactant | trifluoroacetic acid | 6.5 mmol, 0.50 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | O | H2O
solvent | dimethyl sulfoxide | 6 mL | CS(=O)C | C2H6OS
product | 3-chloro-4-(4-chloro-3-(trifluoromethyl)phenoxy)-2-fluorobenzoic acid | 140 mg | ClC=1C(=C(C(=O)O)C=CC1OC1=CC(=C(C=C1)Cl)C(F)(F)F)F | C14H6Cl2F4O3
